US07345180B2
(S)-1-[2-(1,1-Dimethyl-2-methylaminoethylamino)acetyl]-pyrrolidine-2-carbonitrile
The (S)-N-{2-[2-(2-cyanopyrrolidin-1-yl)-2-oxoethylamino]-2-methyl-1-propyl}formamide (690 mg) obtained above was dissolved in MeOH (30 ml). Sodium cyanoborohydride (172 mg) was added there to and stirred for 6 hours at room temperature. The reaction mixture was concentrated under reduced pressure, and the residue was purified by column chromatography (eluting solvent; dichloromethane:methanol 5:1→3:1) to give the title compound (455 mg, Y.:70%).

reactant | (S)-N-{2-[2-(2-cyanopyrrolidin-1-yl)-2-oxoethylamino]-2-methyl-1-propyl}formamide | 690 mg | C(#N)[C@H]1N(CCC1)C(CNC(CNC=O)(C)C)=O | C12H20N4O2
reactant | Sodium cyanoborohydride | 172 mg | C(#N)[BH3-].[Na+]
solvent | MeOH | 30 ml | CO | CH4O
product | (S)-1-[2-(1,1-Dimethyl-2-methylaminoethylamino)acetyl]-pyrrolidine-2-carbonitrile | 455 mg, 70% | CC(CNC)(C)NCC(=O)N1[C@@H](CCC1)C#N | C12H22N4O
